US07915443B2
N-[{3-[(2,3-dihydroxypropyl)(methyl)amino]propyl}(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide
In a manner similar to that described for Example 508, N-[(3-bromopropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide and 3-methylamino-1,2-propanediol were converted to the title compound.

reactant | N-[(3-bromopropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | BrCCCS(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O | C29H24BrN3O4S
reactant | 3-methylamino-1,2-propanediol | CNCC(CO)O | C4H11NO2
product | N-[{3-[(2,3-dihydroxypropyl)(methyl)amino]propyl}(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | OC(CN(CCCS(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O)C)CO | C33H34N4O6S
